US08669271B2
4-(5-{4-[(2-Methoxy-ethyl)-methyl-carbamoyl]-phenyl}-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester
To a mixture of 4-[5-(4-carboxy-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester (41 mg) in N,N-dimethylformamide (1 mL) diethyl-isopropylamine (52 mL) and 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU, 32 mg) are added. After 10 min N-(2-methoxyethyl)-methylamine (12 mg) in N,N-dimethylformamide (0.5 mL) is added. The mixture is stirred for 12 h and purified by preparative HPLC (eluent water (+0.1% TFA)/MeOH) to yield the desired product. HPLC (method 12): tR=1.99 min; Mass spectrum (ESI+): m/z=481 [M+H]+.

reactant | 4-[5-(4-carboxy-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | 41 mg | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C(=O)O | C24H27NO5
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 32 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-(2-methoxyethyl)-methylamine | 12 mg | COCCNC | C4H11NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-(5-{4-[(2-Methoxy-ethyl)-methyl-carbamoyl]-phenyl}-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C(N(C)CCOC)=O | C28H36N2O5
